US08895313B2
2-{4-[2-(4-(2-Fluoroethoxy)-phenyl)-vinyl]-phenyl}-6-methoxybenzothiazole
Prepared as described in the Alkene Formation section using diethyl 4-(6-methoxybenzothiazol-2-yl)benzylphosphonate (0.06 g, 0.153 mmol), sodium methoxide (0.5 M solution in MeOH, 0.46 ml, 0.23 mmol) and 4-(2-fluoroethoxy)-benzaldehyde (0.028 g, 0.168 mmol) in dry MeOH (5 ml) to give the title compound (0.048 g, 77%) as a pale yellow solid after work-up.

reactant | diethyl 4-(6-methoxybenzothiazol-2-yl)benzylphosphonate | 0.153 mmol, 0.06 g | COC1=CC2=C(N=C(S2)C2=CC=C(CP(OCC)(OCC)=O)C=C2)C=C1 | C19H22NO4PS
reactant | sodium methoxide | 0.23 mmol, 0.5 M, 0.46 ml | C[O-].[Na+]
reactant | 4-(2-fluoroethoxy)-benzaldehyde | 0.168 mmol, 0.028 g | FCCOC1=CC=C(C=O)C=C1 | C9H9FO2
solvent | MeOH | 5 ml | CO | CH4O
product | 2-{4-[2-(4-(2-Fluoroethoxy)-phenyl)-vinyl]-phenyl}-6-methoxybenzothiazole | 0.048 g, 77% | FCCOC1=CC=C(C=C1)C=CC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C24H20FNO2S
